US05134128
A mixture of 4-(1-methoxytridecyl)-2-trimethylsilylfuran (280 mg, 0.8 mmol) and Rose Bengal (5 mg) in tetrahydrofuran (7 ml) was exposed to singlet oxygen for 5 hr at -78°. The residue, after solvent removal, was flash chromatographed on silica using 60% ethyl ether/petroleum ether. Fractions with Rf of about 0.21 on evaporation afforded the 4-(1-methoxytridecyl)-5-hydroxy-2(5H)-furanone as a colorless prism: mp 53°-4°.

reactant | 4-(1-methoxytridecyl)-2-trimethylsilylfuran | 0.8 mmol, 280 mg | COC(CCCCCCCCCCCC)C=1C=C(OC1)[Si](C)(C)C | C21H40O2Si
reactant | Rose Bengal | 5 mg | C1=C2C(=C(C(=C1I)O)I)OC3=C(C(=C(C=C3C24C5=C(C(=C(C(=C5Cl)Cl)Cl)Cl)C(=O)O4)I)O)I | C20H4Cl4I4O5
reactant | singlet oxygen | O=O | O2
reactant | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 4-(1-methoxytridecyl)-5-hydroxy-2(5H)-furanone | COC(CCCCCCCCCCCC)C1=CC(OC1O)=O | C18H32O4
